US08791275B2
N-(Pyridin-4-yl)-cinnamamide
Reaction of trans-cinnamic acid (0.74 g, 5.00 mmol) with 4-aminopyridine (0.47 g, 5.00 mmol) was conducted according to the general amide coupling procedure using DCC to obtain the product as a white solid (0.76 g, 68%). EIMS m/z: 225 ([M]+), 223 ([M]−).

reactant | trans-cinnamic acid | 5.00 mmol, 0.74 g | C(\C=C\C1=CC=CC=C1)(=O)O | C9H8O2
reactant | 4-aminopyridine | 5.00 mmol, 0.47 g | NC1=CC=NC=C1 | C5H6N2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | N-(Pyridin-4-yl)-cinnamamide | 0.76 g, 68% | N1=CC=C(C=C1)NC(C=CC1=CC=CC=C1)=O | C14H12N2O
